US08304557B2
N-{3-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide
A mixture of 1,3-dimethyl-N-{3-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide (1.11 g, 2.32 mmol), N,N-diisopropylethylamine (424 μL, 2.44 mmol) and N,N-dimethylformamide (7 mL) was stirred at room temperature for 2 hr, iodoacetamide (451 mg, 2.44 mmol) was added and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with water and extracted with ethyl acetate (×3). The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was collected by filtration and washed with ethyl acetate-hexane to give the title compound (883 mg, 71%) as a white solid.

reactant | 1,3-dimethyl-N-{3-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}-1H-pyrazole-5-carboxamide | 2.32 mmol, 1.11 g | CN1N=C(C=C1C(=O)NC1=CC(=CC=C1)OC=1C=NC(=CC1)NS(=O)(=O)C1=CC=C(C=C1)C)C | C24H23N5O4S
reactant | N,N-diisopropylethylamine | 2.44 mmol, 424 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
reactant | iodoacetamide | 2.44 mmol, 451 mg | ICC(=O)N | C2H4INO
solvent | water | O | H2O
product | N-{3-[(1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 883 mg, 71% | NC(CN1C=C(C=CC1=NS(=O)(=O)C1=CC=C(C=C1)C)OC=1C=C(C=CC1)NC(=O)C1=CC(=NN1C)C)=O | C26H26N6O5S
